* Synthetic circuit 0022
MN1 net4 GND net5 GND nfet w=1.65u l=0.69u m=1
MN2 net3 net5 GND GND nfet w=2.7u l=0.96u m=1
MP1 net3 net3 net1 vdd pfet w=9.35u l=0.72u m=1
MP2 net4 net4 vdd vdd pfet w=5.98u l=0.12u m=1
C1 net1 net2 1n
C2 GND net1 1p
.end