* Synthetic circuit 0023
MN1 net3 net2 net3 GND nfet w=5.54u l=0.22u m=1
MN2 net2 net1 net3 GND nfet w=0.63u l=0.66u m=1
MN3 net1 vdd GND GND nfet w=9.82u l=0.55u m=1
MP1 net1 net3 net5 vdd pfet w=7.47u l=0.42u m=1
C1 vdd net1 1p
C2 net3 net2 10p
.end