* Synthetic circuit 0024
MN1 net2 net1 net1 GND nfet w=7.21u l=1.0u m=1
MN2 net7 net3 GND GND nfet w=4.69u l=0.88u m=1
MN3 net6 GND GND GND nfet w=5.41u l=0.96u m=1
MN4 net6 net6 net4 GND nfet w=5.25u l=1.0u m=1
MP1 net6 net3 net2 vdd pfet w=6.97u l=0.96u m=1
MP2 net1 net7 net5 vdd pfet w=6.78u l=0.13u m=1
R1 net2 net4 500
.end