* Synthetic circuit 0031
MN1 net2 vdd net1 GND nfet w=9.53u l=0.58u m=1
MP1 net6 net1 net1 vdd pfet w=9.83u l=0.13u m=1
MP2 net1 net1 net1 vdd pfet w=5.59u l=0.5u m=1
MP3 net4 net2 net4 vdd pfet w=1.38u l=0.12u m=1
MP4 net4 net4 net1 vdd pfet w=2.46u l=0.45u m=1
C1 net2 net1 10p
.end