* Synthetic circuit 0036
MN1 net1 net3 GND GND nfet w=6.46u l=0.32u m=1
MN2 net4 net3 net2 GND nfet w=3.05u l=0.17u m=1
MN3 net4 net2 net3 GND nfet w=3.78u l=0.83u m=1
MP1 net2 GND net4 vdd pfet w=1.67u l=0.55u m=1
C1 net5 net1 10n
.end