* Synthetic circuit 0037
MN1 net3 net2 GND GND nfet w=6.21u l=0.35u m=1
MP1 net2 net2 net3 vdd pfet w=4.72u l=0.96u m=1
R1 vdd GND 1000
R2 vdd net2 500
C1 net2 net3 10n
.end