* Synthetic circuit 0042
MN1 net1 net1 GND GND nmos w=6.93u l=0.9u m=1
MP1 net1 in net3 vdd pmos w=0.8u l=0.18u m=1
R1 GND vdd 5000
R2 GND net3 200
.end