* Synthetic circuit 0043
MN1 net3 net4 GND GND nmos w=6.19u l=0.65u m=1
MP1 net5 net5 net3 vdd pmos w=4.04u l=0.87u m=1
MP2 net5 net4 net3 vdd pmos w=2.17u l=0.87u m=1
MP3 net1 net2 net4 vdd pmos w=1.41u l=0.56u m=1
R1 net2 GND 1000
C1 net3 net4 100p
.end