* Synthetic circuit 0052
MN1 net4 vctrl GND GND nmos w=2.01u l=1.0u m=1
MN2 net4 net2 net1 GND nmos w=4.68u l=0.1u m=1
MN3 net5 net4 net3 GND nmos w=0.61u l=0.16u m=1
MP1 net2 ven net4 vdd pmos w=6.44u l=0.54u m=1
R1 net2 net3 100
R2 net5 vdd 5000
R3 net2 vdd 5000
C1 net2 net5 100p
.end